US09399637B2
1-(9-((2-((2,3-dimethyl-2H-indazol-6-yl)amino)-5-methylpyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)ethanone
To a solution of N2-(2,3-dimethyl-2H-indazol-6-yl)-5-methyl-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine (201.5 mg, 0.4802 mmol), HOAT (106.4 mg, 0.7817 mmol) and EDCI (145.7 mg, 0.7600 mmol) in DCM/DMF (4 mL/1 mL) were added N,N-diethylethanamine (207.6 mg, 2.052 mmol) and acetic acid (36.7 mg, 0.611 mmol). The reaction was stirred at rt for 2 h. The reaction solution was concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=30/1) to give the crude product as a light yellow solid (92 mg). The crude product was recrystallized from acetone/MeOH (6 mL/0.5 mL) to give the title compound as a white solid (50.4 mg, 21.6%).

reactant | N2-(2,3-dimethyl-2H-indazol-6-yl)-5-methyl-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine | 0.4802 mmol, 201.5 mg | CN1N=C2C=C(C=CC2=C1C)NC1=NC=C(C(=N1)NC1CCC2(CCNCC2)CC1)C | C24H33N7
reactant | HOAT | 0.7817 mmol, 106.4 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDCI | 0.7600 mmol, 145.7 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | N,N-diethylethanamine | 2.052 mmol, 207.6 mg | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 0.611 mmol, 36.7 mg | C(C)(=O)O | C2H4O2
solvent | DCM DMF | 4 mL | C(Cl)Cl.CN(C)C=O
product | 1-(9-((2-((2,3-dimethyl-2H-indazol-6-yl)amino)-5-methylpyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)ethanone | 50.4 mg, 21.6% | CN1N=C2C=C(C=CC2=C1C)NC1=NC=C(C(=N1)NC1CCC2(CCN(CC2)C(C)=O)CC1)C | C26H35N7O
